US06235740B1
used in the preparation of 389 was prepared as follows: N-Chlorosuccinimide (1.00 g; 8.2 mmol) was added to a solution of 2,3-dimethylaniline (1 ml; 8.2 mmol) in 20 ml of DMF in the dark. After stirring 1 hr. in the dark, the reaction mixture was partitioned between EtOAc (100 ml) and water (100 ml). The organic layer was washed with 1N NaOH (100 ml), water (100 ml) and brine (50 ml). Drying (MgSO4) and concentration afforded 1.25 g (99%) of 2,3-dimethyl-6-chloroaniline as a deep red liquid.

reactant | N-Chlorosuccinimide | 8.2 mmol, 1.00 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 2,3-dimethylaniline | 8.2 mmol, 1 ml | CC1=C(N)C=CC=C1C | C8H11N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2,3-dimethyl-6-chloroaniline | 1.25 g, 99% | CC1=C(N)C(=CC=C1C)Cl | C8H10ClN
